US08580794B2
4-(1-(1,3-difluoropropan-2-yl)azetidin-3-ylamino)-3-nitrobenzenesulfonamide
To a suspension of 4-chloro-3-nitrobenzenesulfonamide (0.225 g) and 1-(1,3-difluoropropan-2-yl)azetidin-3-amine (0.193 g) in dioxane (5 mL) was added diisopropylamine (0.832 mL). The reaction was sonicated and then heated to 100° C. After stirring overnight, the reaction was concentrated and loaded onto silica gel (GraceResolv 12 g) and eluted with a gradient of 0.5% to 3.5% methanol/dichloromethane to give the title compound.

reactant | 4-chloro-3-nitrobenzenesulfonamide | 0.225 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | 1-(1,3-difluoropropan-2-yl)azetidin-3-amine | 0.193 g | FCC(CF)N1CC(C1)N | C6H12F2N2
reactant | diisopropylamine | 0.832 mL | C(C)(C)NC(C)C | C6H15N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(1-(1,3-difluoropropan-2-yl)azetidin-3-ylamino)-3-nitrobenzenesulfonamide | FCC(CF)N1CC(C1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C12H16F2N4O4S
